US07514566B2
To a 250 mL round bottom flask containing (S)-2-(dibenzylamino)-N-methoxy-N-methyl-3-(4-(trifluoromethyl)phenyl)propanamide (10.49 g, 23.0 mmol) was added THF (200 mL), and the flask was cooled to 0° C. Methylmagnesium bromide (3.16 M in ether, 12.7 mL, 40.2 mmol) was added dropwise over 10 minutes. After 2 hours, additional methylmagnesium bromide, 3.16 in ether (12.7 mL, 40.2 mmol) was added dropwise over 10 minutes. After 1 hour, the mixture was poured into ammonium chloride—ice (200 mL), washed with brine (100 mL), dried over sodium sulfate, and stored at −20° C. for 15 hours. Plate-like crystals formed the next morning. The mixture was decanted from sodium sulfate and evaporated to provide a yellow oil that crystallized in the freezer over the weekend. The solid was triturated with hexane and chilled at −20° C. before filtration. The product was obtained as a white crystalline solid. The yellow filtrate was adsorbed onto silica gel and purified by chromatography through a Redi-Sep® pre-packed silica gel column (330 g), eluting with a gradient of 0% to 70% EtOAc in hexane to provide additional product as an oil that crystallized under hi vacuum. The two lots were combined to provide (S)-3-(dibenzylamino)-4-(4-(trifluoromethyl)phenyl)butan-2-one (8.09 g, 85.6% yield) as a white solid. LCMS (ES+) m/z=412.3 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 2.13 (s, 3H) 2.93 (dd, J=13.30, 3.52 Hz, 2H) 3.21 (dd, J=13.30, 9.39 Hz, 1H) 3.50-3.60 (m, 3H) 3.82 (d, J=13.69 Hz, 2H) 7.19-7.30 (m, 4H) 7.30-7.35 (m, 8H) 7.46 (d, J=8.02 Hz, 2H).

reactant | (S)-2-(dibenzylamino)-N-methoxy-N-methyl-3-(4-(trifluoromethyl)phenyl)propanamide | 23.0 mmol, 10.49 g | C(C1=CC=CC=C1)N([C@H](C(=O)N(C)OC)CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C26H27F3N2O2
reactant | Methylmagnesium bromide | 40.2 mmol, 3.16 M, 12.7 mL | C[Mg]Br
reactant | ether | 40.2 mmol, 12.7 mL | CCOCC | C4H10O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (S)-3-(dibenzylamino)-4-(4-(trifluoromethyl)phenyl)butan-2-one | 8.09 g, 85.6% yield | C(C1=CC=CC=C1)N([C@H](C(C)=O)CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C25H24F3NO
